US08957073B2
A solution of 1-{1-[3-(1-quinolin-2-yl-azetidin-3-yl)-pyrazin-2-yl]-piperidin-4-yl}-ethanone (96.75 mg, 0.25 mmol) in MeOH (10 mL) was added NaBH4 (37 mg, 1 mmol). The mixture was stirred at RT for 2 h. The reaction mixture was concentrated to give the product (racemic)-1-{1-[3-(1-quinolin-2-yl-azetidin-3-yl)-pyrazin-2-yl]-piperidin-4-yl}-ethanol (76 mg, 0.20 mmol, yield 78%).

reactant | 1-{1-[3-(1-quinolin-2-yl-azetidin-3-yl)-pyrazin-2-yl]-piperidin-4-yl}-ethanone | 0.25 mmol, 96.75 mg | N1=C(C=CC2=CC=CC=C12)N1CC(C1)C=1C(=NC=CN1)N1CCC(CC1)C(C)=O | C23H25N5O
reactant | NaBH4 | 1 mmol, 37 mg | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | (racemic)-1-{1-[3-(1-quinolin-2-yl-azetidin-3-yl)-pyrazin-2-yl]-piperidin-4-yl}-ethanol | 0.20 mmol, 76 mg, yield 78% | N1=C(C=CC2=CC=CC=C12)N1CC(C1)C=1C(=NC=CN1)N1CCC(CC1)C(C)O | C23H27N5O
